US06413964B1
Step M: Preparation of 3-(Piperazin-1-ylsulfonyl)phenol Hydrochloride
HCl gas was bubbled into a solution of 4-(3-hydroxy-benzenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester (2.3 g, 9.5 mmol) in EtOAc (100 mL) at −20° C. with stirring for 10 min. The solution was stoppered, stirred for 1 h, purged with Ar for 15 min, then concentrated in vacuo to the title compound as a white solid. 1H NMR (d6-DMSO) δ 8.97, br s, 1H), 7.50 (t, 1H, J=8 Hz), 7.12-7.19 (m, 2H), 3.175 (d, 2H, J=5 Hz), 3.12 (t, 2H, J=5 Hz).

reactant | HCl | Cl | ClH
reactant | 4-(3-hydroxy-benzenesulfonyl)-piperazine-1-carboxylic acid tert-butyl ester | 9.5 mmol, 2.3 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC(=CC=C1)O | C15H22N2O5S
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-(Piperazin-1-ylsulfonyl)phenol Hydrochloride | Cl.N1(CCNCC1)S(=O)(=O)C=1C=C(C=CC1)O | InChI=1S/C10H14N2O3S.ClH/c13-9-2-1-3-10(8-9)16(14,15)12-6-4-11-5-7-12;/h1-3,8,11,13H,4-7H2;1H
